US09227970B2
4-(Azetidine-1-carbonyl)-1-methyl-N-(2-(thiazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-1H-pyrazole-5-carboxamide
Using azetidine and 1-methyl-5-(2-(thiazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. Light brown solid (25 mg, 18%). MS: m/z=409.2 (M+H+).

reactant | azetidine | N1CCC1 | C3H7N
reactant | 1-methyl-5-(2-(thiazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C=2N=CSC2)=O)C(=O)O | C15H11N7O3S
product | 4-(Azetidine-1-carbonyl)-1-methyl-N-(2-(thiazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-1H-pyrazole-5-carboxamide | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC=1C=CC=2N(C1)N=C(N2)C=2N=CSC2)C | C18H16N8O2S
